US07846960B2
4-Cyclopropyl-2-(2,6-dichloro-phenyl)-2H-Pyrazole-3-carboxylic Acid Ethyl Ester
To a solution of 3-Cycloproply-4-dimethylamino-2-oxo-but-3-enoic acid ethyl ester (6.5 mmol, 1.4 g) in ethanol (25 mL) is added 2,6-dichlorophenyl hydrazine hydrochloride (7.2 mmol, 1.5 g) followed by concentrated HCl (100 μL). The reaction is stirred for 4 h at room temperature followed by heating at 85° C. for 18 h. The reaction mixture is adsorbed onto silica gel and purified using a gradient of 0-20% EtOAc/Hexanes to yield the title compound (0.8 g, 34%). LC-ES/MS m/e 325.0 (M+1).

reactant | 3-Cycloproply-4-dimethylamino-2-oxo-but-3-enoic acid ethyl ester | 6.5 mmol, 1.4 g | C(C)OC(C(C(=CN(C)C)C1CC1)=O)=O | C11H17NO3
reactant | 2,6-dichlorophenyl hydrazine hydrochloride | 7.2 mmol, 1.5 g | Cl.ClC1=C(C(=CC=C1)Cl)NN
reactant | HCl | 100 μL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-Cyclopropyl-2-(2,6-dichloro-phenyl)-2H-Pyrazole-3-carboxylic Acid Ethyl Ester | 0.8 g, 34% | C(C)OC(=O)C=1N(N=CC1C1CC1)C1=C(C=CC=C1Cl)Cl | C15H14Cl2N2O2
